*SRC=2N3904;2N3904;BJTs NPN; Si;  60.0V  0.20A  300MHz   Central Semi Central Semi
.MODEL 2N3904  NPN (
+ IS=4.9148E-15
+ BF=191.70
+ VAF=100
+ IKF=.28579
+ ISE=11.882E-15
+ NE=1.4422
+ BR=5.6808
+ VAR=100
+ IKR=61.753E-3
+ ISC=71.145E-12
+ NC=1.6595
+ NK=.8296
+ RB=5.8072
+ RC=.70808
+ CJE=6.9435E-12
+ VJE=.61872
+ MJE=.27802
+ CJC=3.7572E-12
+ VJC=1.2237
+ MJC=.28886
+ TF=523.89E-12
+ XTF=83.066
+ VTF=67.769
+ ITF=1.8804
+ TR=10.000E-9 )
           
* This is the on semi spice3 model of the PNP transistor           
.MODEL 2N3906 PNP (
+IS=7.75521e-12 BF=194.093 NF=1.35509 VAF=156.436
+IKF=0.0660057 ISE=1.88546e-12 NE=1.81673 BR=3.41317
+NR=1.5 VAR=5.86061 IKR=1.70599 ISC=7.64281e-10
+NC=1.92376 RB=6.48961 IRB=0.1 RBM=0.1
+RE=0.0001 RC=2.45044 XTB=0.1 XTI=1
+EG=1.05 CJE=6.11928e-12 VJE=0.4 MJE=0.248812
+TF=5.21843e-10 XTF=0.932702 VTF=9.1046 ITF=0.0106472
+CJC=6.85007e-12 VJC=0.4 MJC=0.279018 XCJC=0.9
+FC=0.478887 CJS=0 VJS=0.75 MJS=0.5
+TR=4.30605e-07 PTF=0 KF=0 AF=1 )


* this model was taken from the ngspice tutorial page
.model BC546B npn ( IS=7.59E-15 VAF=73.4 BF=480 IKF=0.0962 NE=1.2665
+ ISE=3.278E-15 IKR=0.03 ISC=2.00E-13 NC=1.2 NR=1 BR=5 RC=0.25 CJC=6.33E-12
+ FC=0.5 MJC=0.33 VJC=0.65 CJE=1.25E-11 MJE=0.55 VJE=0.65 TF=4.26E-10
+ ITF=0.6 VTF=3 XTF=20 RB=100 IRB=0.0001 RBM=10 RE=0.5 TR=1.50E-07)

* TVL2221 is a high output current but rather slow Opamp
* (500kHz, 10mA)
* TLV2221 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 05/29/96 AT 15:56
* REV(N/A)  5 VOLT MODEL (LEVEL II)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TLV2221_TI_5_2  1 2 3 4 5
*
  C1   11 12 13.83E-12
  C2    6  7 50.00E-12
  CPSR 85 86 53E-9
  DCM+ 81 82 DX
  DCM- 83 81 DX
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  ECMR 84 99 (2,99) 1
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  EPSR 85 0 POLY(1) (3,4) -500E-6  100E-6
  ENSE 89 2 POLY(1) (88,0) 400E-6 1
  FB 7 99 POLY(6) VB VC VE VLP VLN VPSR 0 893.6E3 -90E3 90E3 90E3 -90E3 26E4
  GA    6  0 11 12 94.25E-6
  GCM 0  6 10 99 9.300E-9
  GPSR 85 86 (85,86) 100E-6
  GRD1 60 11 (60,11) 94.25E-6
  GRD2 60 12 (60,12) 94.25E-6
  HLIM 90  0 VLIM 1K
  HCMR 80 1 POLY(2) VCM+ VCM- 0 1E2 1E2
  IRP 3 4 101E-6
  ISS   3 10 DC 9.000E-6
  IIO  2 0 .5E-12
  I1  88 0 1E-21
  J1   11  89 10 JX
  J2   12  80 10 JX
  R2    6  9 100.0E3
  RCM 84 81 1K
  RN1 88 0 13E3
  RO1   8  5 35
  RO2   7 99 35
  RSS  10 99 22.22E6
  VAD  60 4 -.5
  VCM+ 82 99 1.2
  VCM- 83 99 -2.3
  VB    9  0 DC 0
  VC 3 53 DC .666
  VE   54  4 DC .666
  VLIM  7  8 DC 0
  VLP  91  0 DC 3.4
  VLN 0 92 DC 11.4
  VPSR 0 86 DC 0
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=500.0E-15 BETA=1.527E-3 VTO=0.003 KF=2.4E-16)
.ENDS

* The TLV2231 is a bit faster and still has considerable output current
* (2MHz, 14mA)
* TLV2231 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 05/30/96 AT 10:21
* REV(N/A) 5 VOLT MODEL (LEVEL II)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TLV2231_TI_5_2  1 2 3 4 5
*
  C1   11 12 13.51E-12
  C2    6  7 50.00E-12
  CPSR 85 86 5.3E-9
  DCM+ 81 82 DX
  DCM- 83 81 DX
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  ECMR 84 99 (2,99) 1
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  EPSR 85 0 POLY(1) (3,4) -500E-6 100E-6
  ENSE 89 2 POLY(1) (88,0) 400E-6 1
  FB 7 99 POLY(6) VB VC VE VLP VLN VPSR 0 90.83E3 -10E3 10E3 10E3 -10E3 10.5E4
  GA    6  0 11 12 314.2E-6
  GCM 0  6 10 99 242.35E-9
  GPSR 85 86 (85,86) 100E-6
  GRD1 60 11 (60,11) 314.16E-6
  GRD2 60 12 (60,12) 314.16E-6
  HLIM 90  0 VLIM 1K
  HCMR 80 1 POLY(2) VCM+ VCM- 0 1E2 1E2
  IRP 3 4 763E-6
  ISS 3 10 DC 87.00E-6
  IIO 2 0 .5E-12
  I1 88 0 1E-21
  J1   11  89 10 JX
  J2   12  80 10 JX
  R2    6  9 100.0E3
  RCM 84 81 1K
  RN1 88 0 5E3
  RO1   8  5 25
  RO2   7 99 25
  RSS  10 99 2.500E6
  VAD  60  4  -.5
  VCM+ 82 99 1.1
  VCM- 83 99 -2.4
  VB    9  0 DC 0
  VC 3 53 DC .795
  VE   54  4 DC .795
  VLIM  7  8 DC 0
  VLP  91  0 DC 12.4
  VLN 0 92 DC 17.4
  VPSR 0 86 DC 0
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=500.0E-15 BETA=2.939E-3 VTO=-.065 KF=6.4E-16)
.ENDS


* The TLV2362 is a fast low noise amplifier (7MHz)
* TLV2362 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.03 ON 01/05/96 AT 11:21
*
* (REV N/A) SUPPLY VOLTAGE +/-1.5V   (LEVEL II MODEL)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TLV2362_TI_3_2  1 2 3 4 5
*
  C1   11 12 4.408E-12
  C2 6  7 37.00E-12
  C3 87 0 10.64E-9
  CPSR 85 86 15.9E-9
  DCM+ 81 82 DX
  DCM- 83 81 DX
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  ECMR 84 99 (2 99) 1
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  EPSR 85 0 POLY(1) (3,4) -6E-6 2.0E-6
  ENSE 89 2 POLY(1) (88,0) 1.0E-3  1
  FB 7 99 POLY(6) VB VC VE VLP VLN VPSR 0 12.74E3 -40E6 40E6 40E6 -40E6 13E6
  GA    6  0 11 12 1.885E-3
  GCM 0  6 10 99 375.2E-9
  GPSR 85 86 (85,86) 100E-6
  GRC1 4 11 (4,11) 1.885E-3
  GRC2 4 12 (4,12) 1.885E-3
  GRE1 13 10 (13,10) 8.5689E-3
  GRE2 14 10 (14,10) 8.5689E-3
  HLIM 90  0 VLIM 1K
  HCMR 80 1 POLY(2) VCM+ VCM- 0 1E2 1E2
  IRP 3 4 1.275E-3
  IEE 3 10 DC 125.0E-6
  IIO 2 0 5E-9
  I1 88 0 1E-21
  Q1   11  89 13 QX
  Q2   12  80 14 QX
  R2    6  9 100.0E3
  RCM 84 81 1K
  REE  10 99 1.599E6
  RN1 87 0 2.55E8
  RN2 87 88 3.25E3
  RO1   8  5 50
  RO2   7 99 25
  VCM+ 82 99 0.0
  VCM- 83 99 -0.0
  VB    9  0 DC 0
  VC 3 53 DC .56
  VE   54  4 DC .56
  VLIM  7  8 DC 0
  VLP  91  0 DC .5
  VLN   0 92 DC 20
  VPSR 0 86 DC 0
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=3.125E3)
.ENDS

* Power mosfet on-semi 14A Logic level 117mOhm @ 5V
.SUBCKT ntd14n03r 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Dec 16, 03
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.494 LAMBDA=0 KP=15.6804
+CGSO=8.8519e-07 CGDO=2.31695e-07
RS 8 3 0.0713669
D1 3 1 MD
.MODEL MD D IS=4.17079e-08 RS=0.00230744 N=1.5 BV=25
+IBV=0.00025 EG=1.01815 XTI=4 TT=0
+CJO=8.8762e-11 VJ=2.70045 M=0.577138 FC=0.5
RDS 3 1 2.5e+10
RD 9 1 0.0001
RG 2 7 6.32232
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.24192e-11 VJ=0.5 M=0.300005 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.96904e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS ntd14n03r

* BEGIN MODEL TLV2371
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   6  2  1
.SUBCKT TLV2371 3 4 6 2 1
* BEGIN NOTES
* FOR MORE ACCURATE CURRENTS
* IF LOOKING AT BIAS CURRENT
* USE GMIN-1E-13
* MODEL TEMPERATURE RANGE IS
* -40 C TO +125 C, NOT ALL
* PARAMETERS TRACK THOSE OF
* THE REAL PART VS TEMPERATURE
* END NOTES
* BEGIN FEATURES
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE W 1/F
* INPUT CURRENT NOISE
* INPUT BIAS CURRENT
* INPUT BIAS CURRENT VS TEMPERATURE
* INPUT CAPACITANCE
* INPUT COMMON MODE VOLTAGE RANGE
* INPUT VOS SHIFT WITH VCM
* INPUT CLAMPS TO RAILS
* CMRR WITH FREQUENCY EFFECTS
* PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* QUIESCENT CURRENT
* HIGH CLOAD EFFECTS
* CLASS AB BIAS IN OUTPUT STAGE
* OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING
* OUTPUT CLAMPS TO RAILS
* OUTPUT SWING VS OUTPUT CURRENT
* END FEATURES
VEN 5 2 2
REN 5 2 1E12
Q20 7 8 9 QLN
R3 10 11 2
R4 12 11 2
R10 8 13 1E3
R11 14 15 1E3
R12 16 6 4
R13 2 17 4
R16 18 19 200
R17 20 21 4
R18 9 22 4
D5 23 6 DD
D6 2 23 DD
D7 24 0 DIN
D8 25 0 DIN
I8 0 24 0.1E-3
I9 0 25 0.1E-3
E2 9 0 2 0 1
E3 21 0 6 0 1
D9 26 0 DVN
D10 27 0 DVN
I10 0 26 0.1E-3
I11 0 27 0.1E-3
E4 28 4 26 27 0.025
G2 29 4 24 25 2.9E-7
R22 2 6 100E6
E5 30 0 21 0 1
E6 31 0 9 0 1
E7 32 0 33 0 1
R30 30 34 1E5
R31 31 35 1E5
R32 32 36 1E5
R33 0 34 10
R34 0 35 10
R35 0 36 10
E10 37 3 36 0 0.01
R36 38 33 1E3
R37 33 39 1E3
C6 30 34 0.2E-12
C7 31 35 0.2E-12
C8 32 36 0.2E-12
E11 40 37 35 0 0.8
E12 29 40 34 0 0.8
E14 41 9 21 9 0.5
D11 18 21 DD
D12 9 18 DD
M1 42 43 17 17 NOUT L=3U W=80U
M2 44 45 16 16 POUT L=3U W=80U
M3 46 46 20 20 POUT L=3U W=80U
M4 47 48 10 10 PIN L=3U W=110U
M5 49 50 12 12 PIN L=3U W=110U
M8 51 51 22 22 NOUT L=3U W=80U
R43 52 45 100
R44 53 43 100
G3 18 41 54 41 0.2E-3
R45 41 18 120E6
C12 19 23 10E-12
R46 9 47 2E3
R47 9 49 2E3
C13 47 49 1E-12
C14 29 0 4E-12
C15 28 0 4E-12
C16 23 0 0.5E-12
D13 43 7 DD
D14 55 45 DD
Q15 55 15 21 QLP
V18 29 56 0
M19 57 58 21 21 PIN L=6U W=500U
E17 39 0 29 0 1
E18 38 0 4 0 1
M23 58 58 21 21 PIN L=6U W=500U
V21 57 11 0
R59 23 44 1
R60 42 23 1
J1 59 29 59 JNC
J2 59 28 59 JNC
J3 28 60 28 JNC
J4 29 60 29 JNC
C21 29 61 2E-12
E20 62 41 49 47 1
R62 62 54 1E4
C23 54 41 0.1E-12
G7 63 41 18 41 -1E-3
G8 41 64 18 41 1E-3
G9 41 65 51 9 1E-3
G10 66 41 21 46 1E-3
D17 66 63 DD
D18 64 65 DD
R66 63 66 100E6
R67 65 64 100E6
R68 66 21 1E3
R69 9 65 1E3
E23 21 52 21 66 1
E24 53 9 65 9 1
R70 64 41 1E6
R71 65 41 1E6
R72 41 66 1E6
R73 41 63 1E6
G11 6 2 67 0 315E-6
R75 40 29 1E9
R76 37 40 1E9
R77 3 37 1E9
R78 4 28 1E9
R79 41 54 1E9
R81 52 21 1E9
R82 9 53 1E9
R83 33 0 1E9
G14 58 9 67 0 55U
G15 46 51 67 0 80U
E48 68 18 67 0 30
E49 69 41 67 0 -30
V49 70 69 15
V50 71 68 -15
R127 68 0 1E12
R128 69 0 1E12
M41 41 71 18 72 PSW L=1.5U W=150U
M42 18 70 41 73 NSW L=1.5U
R129 72 0 1E12
R130 73 0 1E12
M43 74 5 9 9 NEN L=3U W=300U
M44 75 76 9 9 NEN L=3U W=3000U
R131 74 21 1E4
R132 75 77 1E6
V51 77 9 1
M45 78 78 21 21 PEN L=6U W=60U
M46 5 78 21 21 PEN L=6U W=60U
I20 78 9 0.1E-6
C26 5 0 1E-12
E50 67 0 79 9 1
V52 75 79 1.111E-6
R133 9 79 1E12
C32 21 74 3E-15
C33 77 75 3E-15
I21 6 2 30E-6
L1 23 1 4E-9
R150 23 1 400
V78 21 59 0
V79 60 9 0
R155 46 21 1E8
R156 9 51 1E8
R157 17 43 1E8
R158 16 45 1E8
RG1 0 67 1E9
R159 61 28 100
R225 50 28 25E3
R226 48 56 25E3
M48 80 81 2 2 NIQS L=3U W=1000
R297 80 6 61.5E3
E94 81 2 67 0 2
M49 82 74 9 9 NEN L=3U W=300U
M50 76 82 9 9 NEN L=3U W=300U
R298 82 77 1E4
R299 76 77 1E4
C35 77 82 40E-12
M51 83 84 85 85 NIN L=3U W=110U
M52 86 87 88 88 NIN L=3U W=110U
R300 89 85 2
R301 89 88 2
R302 83 21 2E3
R303 86 21 2E3
C36 83 86 1E-12
G36 18 41 90 41 0.2E-3
R304 41 90 1E9
C37 90 41 0.1E-12
E97 91 41 86 83 1
R305 91 90 1E4
V115 92 56 1E-3
R306 28 87 25E3
R307 92 84 25E3
M53 93 94 95 95 PIN L=6U W=500U
R308 95 57 2E3
V116 21 94 1.25
M54 93 93 9 9 NIN L=3U W=500U
M55 89 93 9 9 NIN L=3U W=500U
E98 21 14 6 16 1
E99 13 9 17 2 1
C105 77 76 130E-12
R233 78 21 1E12
R334 93 9 1E12
R335 58 21 1E12
R336 94 21 1E12
R337 2 81 1E12
G37 28 0 96 0 6.6E-12
I48 28 0 1E-12
I49 0 97 1E-3
D46 97 0 DD
V119 97 98 0.7
R633 0 98 1E6
E100 99 0 98 0 -571
R634 0 99 1E6
D47 100 96 DD
V120 99 100 83.5
G38 29 0 96 0 6.6E-12
I50 29 0 1E-12
R635 0 96 1E6
R636 96 100 1E11
.MODEL DVN D KF=8E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQS NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS
* END MODEL TLV2371
